CIRCUITO COM  AMPOPS INTERCONECTADOS
R1 1 2 1
C1 2 3 1
O1 3 0 0 2
O2 4 0 4 3
R2 4 5 1
O3 6 0 0 5
R3 5 6 1
V1 1 0 PULSE 0 10 0.01 0 0 100 101 1
.TRAN 10 0.01 TRAP 1
